US07915261B2
4 M hydrogen chloride/EtOAc (10 ml) was added to an EtOAc (25 ml) solution of tert-butyl 4-{3-[1-(6-methyl-2-pyridinyl)-4-piperidinyl]propyl}-1-piperidinecarboxylate (1.3 g), followed by stirring overnight at room temperature. The reaction liquid was concentrated, then 2-propanol/diethyl ether was added thereto, followed by stirring. The precipitated solid was collected by filtration, and dried under reduced pressure to obtain 2-methyl-6-{4-[3-(4-piperidinyl)propyl]-1-piperidyl}pyridine dihydrochloride (1.1 g).

reactant | hydrogen chloride EtOAc | 4 M, 10 ml | Cl.CCOC(=O)C
reactant | tert-butyl 4-{3-[1-(6-methyl-2-pyridinyl)-4-piperidinyl]propyl}-1-piperidinecarboxylate | 1.3 g | CC1=CC=CC(=N1)N1CCC(CC1)CCCC1CCN(CC1)C(=O)OC(C)(C)C | C24H39N3O2
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
product | 2-methyl-6-{4-[3-(4-piperidinyl)propyl]-1-piperidyl}pyridine dihydrochloride | 1.1 g | Cl.Cl.CC1=NC(=CC=C1)N1CCC(CC1)CCCC1CCNCC1 | InChI=1S/C19H31N3.2ClH/c1-16-4-2-7-19(21-16)22-14-10-18(11-15-22)6-3-5-17-8-12-20-13-9-17;;/h2,4,7,17-18,20H,3,5-6,8-15H2,1H3;2*1H
